US07384934B2
(S)-2-Methyl-1-[4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)piperazin-2-yl]-propan-2-ol
In a manner similar to that described in Example 359, combine 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione (0.574 g, 2.33 mmol) and (S)-2-methyl-1-piperazin-2-yl-propan-2-ol (0.369 g, 2.33 mmol) to obtain the title compound: mass spectrum (APCI): m/z=371.2 (M+1).

reactant | 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione | 2.33 mmol, 0.574 g | CC1=CC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H10N2S2
reactant | (S)-2-methyl-1-piperazin-2-yl-propan-2-ol | 2.33 mmol, 0.369 g | CC(C[C@@H]1NCCNC1)(C)O | C8H18N2O
product | (S)-2-Methyl-1-[4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)piperazin-2-yl]-propan-2-ol | CC(C[C@@H]1NCCN(C1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)(C)O | C20H26N4OS
